US07750155B2
To a solution of 4-methylenecyclohexanol (1.88 g) in CH2Cl2 (37.6 mL) was added N-iodosuccinimide (4.5 g) under nitrogen atmosphere, which was stirred at ambient temperature for 3 hours. The resultant was washed with Na2S2O3 aq., H2O, and brine. The organic phase was dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give 1-(iodomethyl)-7-oxabicyclo[2.2.1]heptane (1.5 g) as colorless oil.

reactant | 4-methylenecyclohexanol | 1.88 g | C=C1CCC(CC1)O | C7H12O
reactant | N-iodosuccinimide | 4.5 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | CH2Cl2 | 37.6 mL | C(Cl)Cl | CH2Cl2
product | 1-(iodomethyl)-7-oxabicyclo[2.2.1]heptane | 1.5 g | ICC12CCC(CC1)O2 | C7H11IO
